US05198549
Preparation of 2-chloro-5-chloromethylpyridine
1 Mol of 2-chloro-5-methylpyridine and 128 g of acetonitrile are heated to reflux. The mixture is irradiated with UV light and chlorine gas is introduced in a slight excess. The reaction is terminated as soon as 0.37 mol of product has been formed. 0.46 Mol of starting material is simultaneously recovered. Based on the reacted starting material, a yield of 69% results.

reactant | 2-chloro-5-methylpyridine | 1 Mol | ClC1=NC=C(C=C1)C | C6H6ClN
reactant | chlorine | ClCl | Cl2
solvent | acetonitrile | 128 g | C(C)#N | C2H3N
product | 2-chloro-5-chloromethylpyridine | yield of 69% | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
